US09169254B2
KOCN (326 mg, 4.02 mmol) was added to a mixed solution of 2-(4-bromo-3-methyl-phenylamino)-propionic acid ethyl ester (383 mg, 1.34 mmol) in EtOH (5.30 mL) and H2O (2.68 mL). The mixture was stirred at room temperature for three hours and at 60° C. for 11 hours, and AcOH (1 mL) was then added, followed by further stirring for two hours. KOCN (163 mg, 2.01 mmol) was added, followed by further stirring for three hours. The reaction solution was cooled. H2O (50 mL) was added to the reaction solution at room temperature, and this aqueous layer was then extracted with ethyl acetate (20 mL×3). The organic layers were concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane-methanol) to give 1-(4-bromo-3-methyl-phenyl)-5-methyl-imidazolidine-2,4-dione as a yellow form (134 mg, 35%).

reactant | KOCN | 4.02 mmol, 326 mg | O([K])C#N
reactant | 2-(4-bromo-3-methyl-phenylamino)-propionic acid ethyl ester | 1.34 mmol, 383 mg | C(C)OC(C(C)NC1=CC(=C(C=C1)Br)C)=O | C12H16BrNO2
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | KOCN | 2.01 mmol, 163 mg | O([K])C#N
solvent | EtOH | 5.30 mL | CCO | C2H6O
solvent | H2O | 2.68 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
product | 1-(4-bromo-3-methyl-phenyl)-5-methyl-imidazolidine-2,4-dione | BrC1=C(C=C(C=C1)N1C(NC(C1C)=O)=O)C | C11H11BrN2O2
